US07439395B2
134.1 g (0.467 mol) of lithium bis(trifluoromethanesulfonyl)imide in 200 ml of water are added with stirring at room temperature to a solution of 80.0 g (0.468 mol) of bis(dimethylamino)dichloromethane in 300 ml of water. The mixture is stirred for half an hour, and the solid is subsequently filtered off. After repeated washing with 100 ml of water, the crystals formed are dried at 50° C. under a reduced pressure of 10.0 Pa, giving 165.5 g of bis(dimethylamino)chlorocarbenium bis(trifluoromethanesulfonyl)imide, corresponding to a yield of 85.1%.

reactant | lithium bis(trifluoromethanesulfonyl)imide | 0.467 mol, 134.1 g | [N-](S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F.[Li+]
reactant | bis(dimethylamino)dichloromethane | 0.468 mol, 80.0 g | CN(C)C(Cl)(Cl)N(C)C | C5H12Cl2N2
solvent | water | 200 ml | O | H2O
solvent | water | 300 ml | O | H2O
product | bis(dimethylamino)chlorocarbenium bis(trifluoromethanesulfonyl)imide | 165.5 g, yield of 85.1% | [N-](S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F.CN(C)[C+](Cl)N(C)C | InChI=1S/C5H12ClN2.C2F6NO4S2/c1-7(2)5(6)8(3)4;3-1(4,5)14(10,11)9-15(12,13)2(6,7)8/h1-4H3;/q+1;-1
